US05102895
(2) Synthesis of 2,3-dihydroxypropyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate
A mixture comprising 3.9 g of 2,2-dimethyl-1,3-dioxolan-4-ylmethyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate, 15 ml of tetrahydrofuran, 5 ml of methanol and 5 ml of 2 N hydrochloric acid was stirred and heated under reflux for 3 hours. The reaction mixture was dissolved in ether, successively washed with water, an aqueous solution of sodium hydrogencarbonate and water, and dried over magnesium sulfate. After distilling off the solvent, the obtained oily residue was purified by column chromatography (silica gel, hexane : ethyl acetate=3.5:1.5) to thereby give 3.3 g of the title compound as a pale yellow, viscous liquid.

reactant | 2,2-dimethyl-1,3-dioxolan-4-ylmethyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 3.9 g | C(OCC1OC(OC1)(C)C)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C36H60O6
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 2 N, 5 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2,3-dihydroxypropyl 2,5,7,8-tetramethyl-2-(4',8',12'-trimethyltridecyl)-6-chromanyl carbonate | 3.3 g | C(OCC(CO)O)(OC=1C(=C2CCC(OC2=C(C1C)C)(CCCC(CCCC(CCCC(C)C)C)C)C)C)=O | C33H56O6
